US05252732
17-Ethyl-1,14-dihydroxy-12-[2'-(4"-(indol-5-yl)oxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a stirred solution of tri(indol-5-yl)bismuthine (1.3 g., 2.33 mmol.), prepared by procedures outlined in STEP 14B in CH2Cl2 (30 mL.) was added peracetic acid (0.50 mL., 2.31 mmol., 32% in acetic acid) followed in 10 minutes by 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (1.0 g., 1.26 mmol.) and Cu(OAc)2 (100 mg., 0.55 mmol.). The reaction mixture was allowed to stir at room temperature for 3 days. The reaction was quenched with saturated aqueous NaHCO3 and the mixture extracted 2× with CH2Cl2. The extracts were combined, dried with Na2SO4, filtered and concentrated in vacuo. The product was isolated and purified by preparative TLC 2× with 2:1 hexane/acetone and once with 2:1 hexane/EtOAc to give 208 mg of the title compound. MASS (FAB), M+906. Partial 1H NMR (CDCl3, 200 MHz) δ:8.12 (bs, 1H); 7.26 (d, J=10 Hz, 1H); 7.22 (d, J=2.5 Hz, 1H); 7.18 (m, 1H); 6.9 (dd, J=2.5 Hz and 10 Hz, 1H); 6.44 (m, 1H); 3.53 (s, 3H).

reactant | tri(indol-5-yl)bismuthine | 2.33 mmol, 1.3 g | N1C=CC2=CC(=CC=C12)[Bi](C=1C=C2C=CNC2=CC1)C=1C=C2C=CNC2=CC1
reactant | peracetic acid | 2.31 mmol, 0.50 mL | C(C)(=O)OO | C2H4O3
reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 1.26 mmol, 1.0 g | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H69NO12
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | 0.55 mmol, 100 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 17-Ethyl-1,14-dihydroxy-12-[2'-(4"-(indol-5-yl)oxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 208 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC=2C=C1C=CNC1=CC2)OC)C)C)O)=O | C51H74N2O12
